US07687627B2
(S)-N-{3-[4-(4-(4-Methoxycarbonylphenylamino)-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-thioacetamide
By using procedure as described in Example 82 and by reacting (S)-N-{3-[4-(4-(4-methoxycarbonylphenylamino)-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide and Lawesson's reagent the compound was obtained in 61% yield.

reactant | (S)-N-{3-[4-(4-(4-methoxycarbonylphenylamino)-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | COC(=O)C1=CC=C(C=C1)NC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)C#N | C26H28FN5O5
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | (S)-N-{3-[4-(4-(4-Methoxycarbonylphenylamino)-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-thioacetamide | 61% yield | COC(=O)C1=CC=C(C=C1)NC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=S)=O)F)C#N | C26H28FN5O4S
